US07169554B2
Acridine-9-carbonyl chloride
Acridine-9-carboxylic acid (1.730 g, 10 mmol) was dissolved in thionyl chloride (25 ml) and the solution was refluxed for 6 hours. The solution was concentrated in vacuo and hexane was added slowly to precipitate the product. The mixture was filtered to give a yellow solid (1.721 g, 94%), mp 218–9° C.

reactant | Acridine-9-carboxylic acid | 10 mmol, 1.730 g | C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)O | C14H9NO2
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | Acridine-9-carbonyl chloride | 1.721 g, 94% | C1=CC=CC2=NC3=CC=CC=C3C(=C12)C(=O)Cl | C14H8ClNO
